US05559081
(a) t-Butyl (3-methyl-2-pyridyl)carbamate
A solution of 2-amino-3-methylpyridine (20 g) plus di-t-butyl dicarbonate (46.8 ml) in dry tetrahydrofuran was refluxed for 3 hours. The solution was evaporated to give a dark brown oil. This was dissolved in ethyl acetate (400 ml), washed with 1.0N citric acid (3×200 ml) and saturated sodium chloride solution, dried, and evaporated to give a pale yellow solid which was crystallised from hexane/diisopropyl ether (1:2) to give 6.5 g of the desired compound as a pale yellow solid, mp 135°-137° C.

reactant | 2-amino-3-methylpyridine | 20 g | NC1=NC=CC=C1C | C6H8N2
reactant | di-t-butyl dicarbonate | 46.8 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl (3-methyl-2-pyridyl)carbamate | 6.5 g | CC=1C(=NC=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
